US07977387B2
1-Bromo-4-(2-fluoro-ethoxy)-2-methyl-benzene (Compound 478)
A solution of 4-bromo-3-methyl-phenol (3.74 g, 20 mmol), 2-fluoro-ethanol (2.29 mL, 22 mmol), and triphenylphosphine (5.77 g, 22 mmol) in dry THF (15 mL) was cooled to 0° C. under stirring. Diethyl azodicarboxylate (40% in toluene, 10 mL, 22 mmol) was added and the reaction mixture was allowed to come to RT overnight. After 18 h at RT the reaction mixture was poured into a mixture of EtOAc/water. The aqueous phase was extracted with more EtOAc. The organic phases were combined, dried (MgSO4), filtered, and concentrated in vacuo to afford the crude product. The crude product was purified by chromatography eluting with DCM/petroleum ether 1:6 to afford the title compound as colourless oil.

reactant | 4-bromo-3-methyl-phenol | 20 mmol, 3.74 g | BrC1=C(C=C(C=C1)O)C | C7H7BrO
reactant | 2-fluoro-ethanol | 22 mmol, 2.29 mL | FCCO | C2H5FO
reactant | triphenylphosphine | 22 mmol, 5.77 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | Diethyl azodicarboxylate | 22 mmol, 10 mL | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | THF | 15 mL | C1CCOC1 | C4H8O
solvent | EtOAc water | CCOC(=O)C.O
product | 1-Bromo-4-(2-fluoro-ethoxy)-2-methyl-benzene | BrC1=C(C=C(C=C1)OCCF)C | C9H10BrFO
